US05451596
To a mixture of lithium aluminum hydride (0.077 g; 2.04 mmol) in 10 ml THF is added ethyl 2-triphenylmethylaminomethylcyclopropane-1-carboxylate (0.714 g; 1.85 mmol) in 20 ml THF and stirred overnight. The reaction mixture is quenched with water, filtered, concentrated in vacuo and flash chromatographed using hexane:ethylacetate;3:l to obtain 2-triphenylmethylaminomethyl-1-hydroxy-methylcyclopropane as a clear oil which is used directly in the next step.

reactant | lithium aluminum hydride | 2.04 mmol, 0.077 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-triphenylmethylaminomethylcyclopropane-1-carboxylate | 1.85 mmol, 0.714 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NCC1C(C1)C(=O)OCC | C26H27NO2
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-triphenylmethylaminomethyl-1-hydroxy-methylcyclopropane | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NCC1C(C1)(O)C | C24H25NO
